US06124365
Hexamethylenediamine (100 g, 0.86 mole) was heated with γ-butyrolactone (23.36 ml, 0.31 mole) at 210° C. under nitrogen for 24 hours in a three-neck reaction flask equipped with air reflux condenser. After the reaction, most of the unreacted diamine was crystallized upon cooling to room temperature; therefore, most of the excess diamine was filtered off. The remaining unreacted diamine in solution was vacuum distilled, then N-(6-aminohexyl)-2-pyrrolidone was obtained at 140° C. (0.9 torr) as a colorless liquid. Yield: 35 g (62%). Mass Spectra: m/e (relative intensity) 185(M+1+, 16.97).

reactant | Hexamethylenediamine | 0.86 mole, 100 g | NCCCCCCN | C6H16N2
reactant | γ-butyrolactone | 0.31 mole, 23.36 ml | C1(CCCO1)=O | C4H6O2
product | AHP | NCCCCCCN1C(CCC1)=O | C10H20N2O
